US06110962
4-[6-(2-Dimethylamino-ethylsulfanyl)-benzo[b]naphtho[2,3-d]thiophen-11-yl]-phenol
To a suspension of methanesulfonic acid 4-(6-iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester (1.00 g, 1.89 mmol), dimethylaminoethanethiol hydrochloride (0.614 g, 4.34 mmol, 2.3 eq) and copper I oxide (0.316 g, 8.69 mmol, 1.17 eq) in anhydrous N,N-dimethylformamide (24 mL) was added finely ground sodium hydroxide (0.348 g, 8.69 mmol, 4.6 eq) at room temperature in a pressure vessel. The vessel was flushed with argon, sealed and heated with stirring at 155° C. (oil bath) for 6 hours and at ambient temperature for 12 hours. The reaction mixture was poured into water (100 mL) and extracted with ether. The solid which remained as a suspension in the aqueous phase was filtered. The filtrate was extracted once more with ether. The extracts were combined and silica gel was added. The solvents were removed and the adsorbate was flash chromatographed (gradient 94/6-95/5) methylene chloride:isopropanol to give the title compound as a solid (0.707 g, 87%): NMR (DMSO-d6); δ 9.83 (s, 1H, OH), 8.65 (d, J=8 Hz, 1H), 7.98 (d, J=8 Hz, 1H), 7.71 (ddd, J=8, 7, 1 Hz, 1H), 7.61 (d, J=8 Hz, 1H), 7.50 (ddd, J=8, 7, 1 Hz, 1H), 7.43 (ddd, J=8, 7, 1 Hz, 1H), 7.21-7.05 (m, 3H), 7.08-7.04 (m, 2H), 6.73 (d, J=8 Hz, 1H), 3.35-3.27 (m,), 3.10 (t, J=6 Hz, 2H), 2.21-2.08 (broad singlet, 6H); MS(EI): [M+] 429.

reactant | methanesulfonic acid 4-(6-iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester | 1.89 mmol, 1.00 g | IC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)OS(=O)(=O)C | C23H15IO3S2
reactant | dimethylaminoethanethiol hydrochloride | 4.34 mmol, 0.614 g, 2.3 eq | Cl.CN(C)C(C)S
reactant | sodium hydroxide | 8.69 mmol, 0.348 g, 4.6 eq | [OH-].[Na+]
reactant | N,N-dimethylformamide | 24 mL | CN(C=O)C | C3H7NO
product | 4-[6-(2-Dimethylamino-ethylsulfanyl)-benzo[b]naphtho[2,3-d]thiophen-11-yl]-phenol | 0.707 g, 87% | CN(CCSC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)O)C | C26H23NOS2
